US07576077B2
9-{1-[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl]ethyl}-3-pyridin-4-yl-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a][1,3]diazepine
The title compound was prepared analogous to 9-{[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl]methyl}-3-pyridin-4-yl-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a][1,3]diazepine from 1-[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl]ethyl methanesulfonate (186 mg, 0.61 mmol), 3-pyridin-4-yl-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a][1,3]diazepine (200 mg, 0.56 mmol) to give 8.1 mg (4%) of the title compound. 1H NMR: 1.83 (d, 3H), 1.86-1.95 (m, 4H), 3.16-3.27 (m, 1H), 3.43-3.53 (m, 1H), 3.75-3.87 (m, 1H), 3.95-4.07 (m, 1H), 5.54 (q, 1H), 7.41-7.52 (m, 3H), 7.52-7.58 (m, 1H), 8.01 (m, 1H), 8.12 (m, 1H), 8.73 (m, 2H).

reactant | 9-{[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl]methyl}-3-pyridin-4-yl-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a][1,3]diazepine | ClC=1C=C(C=CC1)C1=NC(=NO1)CN1C=2N(CCCC1)C(=NN2)C2=CC=NC=C2 | C20H18ClN7O
reactant | 1-[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl]ethyl methanesulfonate | 0.61 mmol, 186 mg | CS(=O)(=O)OC(C)C1=NOC(=N1)C1=CC(=CC=C1)Cl | C11H11ClN2O4S
reactant | 3-pyridin-4-yl-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a][1,3]diazepine | 0.56 mmol, 200 mg | N1=CC=C(C=C1)C1=NN=C2N1CCCCN2 | C11H13N5
product | 9-{1-[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl]ethyl}-3-pyridin-4-yl-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a][1,3]diazepine | 8.1 mg, 4% | ClC=1C=C(C=CC1)C1=NC(=NO1)C(C)N1C=2N(CCCC1)C(=NN2)C2=CC=NC=C2 | C21H20ClN7O
